US07888352B2
To a solution of nBuLi (2.5 m in hexanes, 2.00 mL) at −50° C. was added 2-bromopyridine (780 mg) in dry ether (10 mL). After 10 minutes an ethereal solution of BOC-piperidone (1.16 g) was added and the reaction mixture was gradually warmed to room temperature. After 1 hour, the reaction mixture was quenched with ammonium chloride solution, extracted with ether, dried (MgSO4) and the solvent removed in vacuo to yield an oil which was purified using flash chromatography to yield 4′-Hydroxy-3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester. Cleavage of the BOC group with HCl yielded 2′,3′,5′,6′-tetrahydro-1′H-[2,4′]bipyridinyl-4′-ol.

reactant | nBuLi | 2.00 mL | [Li]CCCC
reactant | 2-bromopyridine | 780 mg | BrC1=NC=CC=C1 | C5H4BrN
reactant | BOC-piperidone | 1.16 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | ether | 10 mL | CCOCC | C4H10O
product | 4′-Hydroxy-3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=NC=CC=C1)O | C15H22N2O3
